US06617347B1
4-(4-(3-Amino-3-methylbutyl)phenoxy)benzonitrile Hydrochloride
4-(3-Amino-3-methylbutyl)phenol hydrochloride (1.14 g, 5.3 mmol), 4-fluorobenzonitrile (0.77 g, 6.4 mmol, 1.2 eq.) and potassium carbonate (1.65 g, 11.6 mmol, 2.2 eq.) were suspended in N,N-dimethyl-acetamide (15 ml) and stirred for 16 hours at 110° C. After this time, the darkened mixture was allowed to cool to ambient temperature. The suspension was diluted with ethyl acetate (100 ml) and washed with 1N NaOH (2×100 ml). The organic layer was treated with 5N HCl (100 ml), producing a white precipitate at the biphasic interface. The solid material was filtered and dried, triturated with pentane and dried in vacuo for 14 hours to produce a white solid (1.04 g, 71%). NMR, MS

reactant | 4-(3-Amino-3-methylbutyl)phenol hydrochloride | 5.3 mmol, 1.14 g | Cl.NC(CCC1=CC=C(C=C1)O)(C)C
reactant | 4-fluorobenzonitrile | 6.4 mmol, 0.77 g, 1.2 eq. | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 11.6 mmol, 1.65 g, 2.2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl-acetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-(3-Amino-3-methylbutyl)phenoxy)benzonitrile Hydrochloride | 1.04 g, 71% | Cl.NC(CCC1=CC=C(OC2=CC=C(C#N)C=C2)C=C1)(C)C | InChI=1S/C18H20N2O.ClH/c1-18(2,20)12-11-14-3-7-16(8-4-14)21-17-9-5-15(13-19)6-10-17;/h3-10H,11-12,20H2,1-2H3;1H
